US05750545
(1) Methyl 2-thiophenecarboxylate
The synthesis was carried out according to the method of Example 7-(1). 2-Thiophenecarboxylic acid (25.0 g), : 1,2-dichloroethane (120 ml), methanol (23.7 ml) and concentrated sulfuric acid (0.8 ml) were used as reagents to give 24.9 g of a pale-yellow transparent liquid (yield 90%).

reactant | 2-Thiophenecarboxylic acid | 25.0 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | 1,2-dichloroethane | 120 ml | ClCCCl | C2H4Cl2
reactant | sulfuric acid | 0.8 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 23.7 ml | CO | CH4O
product | Methyl 2-thiophenecarboxylate | 24.9 g, yield 90% | S1C(=CC=C1)C(=O)OC | C6H6O2S
